Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain
 
Major Surgical or Invasive Procedure:
___: Exploratory laparotomy, extended right colectomy.

 
History of Present Illness:
___ is a ___ who is presenting here to the ED w/ a ~2 
day hx of periumbilical abd pain. He says he was o/w in his 
usual state of health when he developed periumbilical abd pain 
after eating dinner this past ___. He has never had similar sx 
before, and has no other sx except for poor PO intake - denies 
f/c/s, n/v, change in BMs, BRBPR, melena; ROS is o/w -ve except 
as noted before. The pain was not worsening but did not improve 
and thus he presented to ___, and was directed here for further 
management, for which we were consulted. On evaluation, his temp 
was 101.7, and other VS were wnl; abd exam was soft, mildly 
distended, and moderate to severe perimbilical ttp w/ guarding, 
no rebound. Labs show WBC 15.5 and Cr 1.4. CT A/P showed 4.6 x 
4.0 phlegmon w/ small adjacent abscesses and possibly involving 
small bowel, of unclear etiology, possibly small bowel 
diverticulitis.
 
Past Medical History:
Nephrolithiasis

PSH: None
 
Social History:
___
Family History:
Father - prostate CA
Mother - brain CA
 
Physical Exam:
Physical Exam on Admission:
VS - 101.7 95 122/61 16 96% RA  
Gen - NAD
CV - RRR
Pulm - non-labored breathing, no resp distress, satting
adequately on RA
Abd - soft, mild distension, moderate to severe periumbilical 
ttp
w/ guarding, no rebound

Physical Exam on Discharge ___:
VS: T 98.6  BP 117/70 HR 68 RR 16 O2 Sat 99% RA 
GEN: NAD. A+Ox3.
CV: RRR
Pulm: Lung sounds clear bilaterally
Abd: Soft, non-distended, non-tender. Midline surgical incision 
with staples in place, open to air. No erythema, hematoma, or 
drainage noted.
Ext: Warm, well-perfused. No pain or edema.
 
Pertinent Results:
CT ABD & PELVIS WITH CONTRAST ___ 
1. Area of inflammation with foci of air and adjacent small 
abscesses in the mid abdomen which is nonspecific. The 
differential diagnosis would include an inflamed/microperforated 
Meckel's diverticulum. Other etiologies are not excluded. 
Surgical consultation is recommended. 
2. Stable 2 mm right lower lobe nodule likely benign. 

CHEST (PRE-OP PA & LAT) ___ 
No focal consolidations identified.

SURGICAL PATHOLOGY REPORT - Final
PATHOLOGIC DIAGNOSIS:
Right colon, right colectomy:
-Colonic segment with diverticulum demonstrating marked 
peridiverticulitis with extensive mural
abscess formation, rupture, and perforation with fibrinopurulent 
serositis, not seen at distal resection
margin.
-Unremarkable ileum and proximal resection margin; no intrinsic 
colonic mucosal abnormalities
otherwise recognized.
-Appendix with fibrinopurulent serositis, otherwise within 
normal limits.
-___ lymph nodes with reactive changes.

___ 07:40AM BLOOD WBC-8.3 RBC-4.02* Hgb-13.1* Hct-39.4* 
MCV-98 MCH-32.6* MCHC-33.2 RDW-13.1 RDWSD-47.6* Plt ___
___ 07:40AM BLOOD WBC-8.3 RBC-4.02* Hgb-13.1* Hct-39.4* 
MCV-98 MCH-32.6* MCHC-33.2 RDW-13.1 RDWSD-47.6* Plt ___
___ 07:40AM BLOOD Glucose-97 UreaN-11 Creat-1.0 Na-142 
K-4.9 Cl-105 HCO3-22 AnGap-15
___ 01:35PM BLOOD ALT-24 AST-25 AlkPhos-52 TotBili-1.0
___ 07:40AM BLOOD Calcium-9.2 Phos-3.0 Mg-2.1
 
Brief Hospital Course:
Mr. ___ is a ___ year old male with a PMH significant only for 
nephrolithiasis. The patient presented to the emergency 
department with complaints of abdominal pain. Imaging was 
completed and CT demonstrated 4.6x4.0cm phlegmon with adjacent 
abscesses. Therefore, the Acute Care Surgery team was consulted 
for further evaluation and management. He was subsequently taken 
to the operating room and underwent exploratory laparotomy with 
extended right colectomy on ___. (Please see operative 
report for details of this procedure). He tolerated the 
procedure well, was extubated upon completion, and was taken to 
the PACU for recovery after which he was transferred to the 
floor in stable condition.

Beginning on POD1, the patient was started on a clear liquid 
diet and his pain was well controlled on oral pain medication. 
However, he did not have return of bowel function until POD5 
when he began to have flatus. His diet was then progressively 
advanced until he was tolerating a regular diet. During this 
hospitalization, the patient voided without difficulty and 
ambulated early and frequently. He was adherent with respiratory 
toilet and incentive spirometry and actively participated in the 
plan of care. The patient received subcutaneous heparin and 
venodyne boots were used during this stay.

At the time of discharge on ___, the patient was doing well. 
He was afebrile and his vital signs were stable. The patient was 
discharged home without services. Discharge teaching was 
completed and follow-up instructions were reviewed with reported 
understanding and agreement.
 
Medications on Admission:
Multivitamins W/minerals 1 TAB PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
Please do not exceed 3gm in a 24 hour period.   
2.  Polyethylene Glycol 17 g PO DAILY  
3.  Multivitamins W/minerals 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Perforated transverse colon
Diverticulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for 
evaluation of abdominal pain. A cat scan was competed which 
found an area of inflammation in your abdomen with adjacent 
abscesses. Therefore, you were taken to the operating room and 
underwent removal of a portion of your colon. You are recovering 
well and are now ready for discharge. Please follow the 
instructions below to continue your recovery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own. 
Please remove any remaining strips ___ days after surgery.
 
Followup Instructions:
___